US07208596B2
A solution of 2-chloro-4,5-difluoro-benzoic acid (15.0 kg, 99 wgt % purity, 77.1 moles, 1.00 eq) and dimethylformamide (0.2 kg, 2.73 moles, 0.04 eq) in toluene (75.9 kg) was treated with oxalyl chloride (19.8 kg, 156.0 moles, 2.02 eq) while maintaining the temperature at <25° C. over 2 hours. The mixture was heated to 50° C. and held 1 hour. At this point, HPLC indicated reaction completion. Remaining oxalyl chloride was removed by distillation, the pot temperature rising from 85 to 110° C. reflecting the removal of the lower boiling oxalyl chloride until only toluene was distilling. The cooled reaction mass (<25° C.) was transferred to another vessel that contained 25 weight % sodium methoxide in methanol (50.5 kg, 233.7 moles, 3.03 eq) in methanol (90.0 kg). The mixture was stirred overnight at 25° C. and monitored by HPLC. The methanol was removed by distillation at 50° C./150 mmHg vacuum while the volume was maintained by the addition of toluene (total of 184.6 kg added). The distillation was continued until the methanol content by GC was 1.16 v/v %. The resulting solution was washed sequentially (each first stirred for 15 minutes) with water (150.0 kg), 1.6 weight % hydrochloric acid (37.0 kg), aqueous sodium bicarbonate (1.85 kg sodium bicarbonate in 33.15 kg water), and water (35.0 kg). The washed solution was filtered through a 0.2 micron cartridge filter and the volume reduced by half by distillation at 50° C./150 mmHg vacuum. The mixture was heated to 80° C. to redissolve the solids that had appeared and heptane (68.0 kg) was added while maintaining the temperature at 70° C. The slurry was cooled to 5° C. and held overnight. The crystals were collected by filtration, washed with heptane (34.0 kg) and dried at 50° C./50 mmHg to yield 14.4 kg (85% yield) of pure 2-chloro-5-fluoro-4-methoxy-benzoic acid methyl ester product.

reactant | 2-chloro-4,5-difluoro-benzoic acid | 77.1 moles, 15.0 kg, 1.00 eq | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
reactant | oxalyl chloride | 156.0 moles, 19.8 kg, 2.02 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | toluene | 75.9 kg | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 90.0 kg | CO | CH4O
catalyst | dimethylformamide | 2.73 moles, 0.2 kg, 0.04 eq | CN(C=O)C | C3H7NO
solvent | methanol | 233.7 moles, 50.5 kg, 3.03 eq | CO | CH4O
product | 2-chloro-5-fluoro-4-methoxy-benzoic acid methyl ester | 14.4 kg, 85% yield | COC(C1=C(C=C(C(=C1)F)OC)Cl)=O | C9H8ClFO3
